US08048902B2
Step 7: (4′-{4-[(R)-1-(2-Fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-2′-methyl-biphenyl-4-yl)-acetic acid
(4′-{4-[(R)-1-(2-Fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-2′-methyl-biphenyl-4-yl)-acetic acid ethyl ester (0.282 g, 0.53 mmol) was hydrolyzed with lithium hydroxide in methanol and water, and the crude material was purified by preparative HPLC to give the title compound.

reactant | (4′-{4-[(R)-1-(2-Fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-2′-methyl-biphenyl-4-yl)-acetic acid ethyl ester | 0.53 mmol, 0.282 g | C(C)OC(CC1=CC=C(C=C1)C1=C(C=C(C=C1)C1=C(C(=NO1)C)NC(=O)O[C@H](C)C1=C(C=CC=C1)F)C)=O | C30H29FN2O5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | (4′-{4-[(R)-1-(2-Fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-2′-methyl-biphenyl-4-yl)-acetic acid | FC1=C(C=CC=C1)[C@@H](C)OC(=O)NC=1C(=NOC1C1=CC(=C(C=C1)C1=CC=C(C=C1)CC(=O)O)C)C | C28H25FN2O5
